US08080566B1
A 100-mL 3-necked round-bottom flask was charged with a solution of 3-(1H-pyrazol-5-yl)piperidine (1.8 g, 11.31 mmol, 1.00 equiv, 95%) in tetrahydrofuran (THF) (100 mL). To this was added 9-ethyl-9H-carbazole-2-carbaldehyde (2.66 g, 11.32 mmol, 1.02 equiv, 95%) and Ti(OiPr)4 (4.24 g, 14.76 mmol, 1.25 equiv, 99%). The resulting solution was allowed to stir at room temperature overnight. To the mixture was then added NaBH3CN (3 g, 47.26 mmol, 4.00 equiv, 99%). The resulting mixture was allowed to stir at room temperature overnight. The progress was monitored by TLC (DCM; MeOH=10:1). Upon completion, the reaction was quenched by the addition of saturated aqueous Na2CO3 (150 mL). The resulting mixture was extracted with ethyl acetate (5×200 mL). Combined organic layers were dried over MgSO4, filtered off and concentrated on a rotary evaporator to give a residue that was purified by silica gel column chromatography eluted with DCM/MeOH (50:1) affording 3-((3-(1H-pyrazol-5-yl)piperidin-1-yl)methyl)-9-ethyl-9H-carbazole as a white solid (0.211 g, 5%). LCMS: [M+H]+: 359.2. 1H NMR (CDCl3,300 MHz) δ 8.11 (m, 1H), 8.00 (s, 1H), 7.48-7.36 (m, 5H), 7.24 (m, 1H), 6.03 (s, 1H), 4.37 (m, 2H), 3.93 (br, 2H), 3.76 (s, 2H), 3.15-2.60 (m, 5H), 1.67-1.56 (m, 4H), 1.43 (t, 3H).

reactant | 3-(1H-pyrazol-5-yl)piperidine | 11.31 mmol, 1.8 g, 1.00 equiv | N1N=CC=C1C1CNCCC1 | C8H13N3
reactant | 9-ethyl-9H-carbazole-2-carbaldehyde | 11.32 mmol, 2.66 g, 1.02 equiv | C(C)N1C2=CC=CC=C2C=2C=CC(=CC12)C=O | C15H13NO
reactant | NaBH3CN | 47.26 mmol, 3 g, 4.00 equiv | [BH3-]C#N.[Na+]
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
catalyst | Ti(OiPr)4 | 14.76 mmol, 4.24 g, 1.25 equiv | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
solvent | MeOH | CO | CH4O
product | 3-((3-(1H-pyrazol-5-yl)piperidin-1-yl)methyl)-9-ethyl-9H-carbazole | 0.211 g, 5% | N1N=CC=C1C1CN(CCC1)CC=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C23H26N4
